US07041702B1
To a solution of cyanamide (2.52 g, 0.06 mol) in 24 ml of sodium hydroxide (10%) was added slowly to a solution of 1-adamantanecarbonylchloride (4 g, 0.02 mol) in ether (15 ml). The reaction mixture was stirred at room temperature overnight. The reaction mixture was extracted with ether and the aqueous layer was cooled in ice bath and acidified with hydrochloric acid (10%) to pH 2. The precipitated white solid was filtered, washed with water, later hexanes and dried under high vacuum to give the N-(1-adamantancarbonyl)cyanamide (3.2 g, 78%); m.p. 164–166° C. (lit m.p. 168–170° C.); purity 94% HPLC; 1H-NMR (CD3OD) δ 1.45–2.16 (m, 15H, CH2 and CH).

reactant | cyanamide | 0.06 mol, 2.52 g | N#CN | CH2N2
reactant | 1-adamantanecarbonylchloride | 0.02 mol, 4 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | sodium hydroxide | 24 ml | [OH-].[Na+]
solvent | ether | 15 ml | CCOCC | C4H10O
product | N-(1-adamantancarbonyl)cyanamide | 3.2 g, 78% | C12(CC3CC(CC(C1)C3)C2)C(=O)NC#N | C12H16N2O
